US09233946B2
A solution of 3-methyl-benzothiophene (900 mg, 6.1 mmol), Ac2O (1.75 mL, 18.5 mmol) and conc. H2SO4 (350 μL, 6.2 mmol) in EtOAc (5 mL) was stirred at room temperature for 3 h. The reaction mixture was diluted with EtOAc. The organic phase was washed with water and brine and then dried. Upon evaporation of some of the solvent the product precipitated. Et2O was added, and the precipitate was collected giving 193 mg of 3-methylbenzothiophene-2-sulfonic acid (14%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.48 (s, 3 H) 7.33-7.41 (m, 2 H) 7.69-7.75 (m, 1 H) 7.83-7.88 (m, 1 H).

reactant | 3-methyl-benzothiophene | 6.1 mmol, 900 mg | CC1=CSC2=C1C=CC=C2 | C9H8S
reactant | Ac2O | 18.5 mmol, 1.75 mL | CC(=O)OC(=O)C | C4H6O3
reactant | H2SO4 | 6.2 mmol, 350 μL | OS(=O)(=O)O | H2O4S
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 3-methylbenzothiophene-2-sulfonic acid | 193 mg, 14% | CC1=C(SC2=C1C=CC=C2)S(=O)(=O)O | C9H8O3S2
